US08304557B2
A mixture of N-{5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (214 mg, 0.634 mmol), ethyl isothiocyanatoformate (108 mg, 0.824 mmol) and DMSO (5 mL) was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl) carbonyl]amino}-4-methylphenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate (280 mg, 94%) as a white solid. A mixture of ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-methylphenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate (270 mg, 0.576 mmol) thus-obtained, hydroxylammonium chloride (280 mg, 4.03 mmol), N,N-diisopropylethylamine (502 μL, 2.88 mmol), ethanol (10 mL) and methanol (10 mL) was stirred at 80° C. for 8 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (164 mg, 75%) as a white solid.

reactant | N-{5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.634 mmol, 214 mg | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)C | C18H19N5O2
reactant | ethyl isothiocyanatoformate | 0.824 mmol, 108 mg | N(=C=S)C(=O)OCC | C4H5NO2S
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl) carbonyl]amino}-4-methylphenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate | 280 mg, 94% | CN1N=C(C=C1C(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=CC1C)C | C22H24N6O4S
